US05529988
Step C. Dimethyl-3-fluorobenzylhydroxymethylsilane
To a mixture of lithium aluminum hydride (0.06 g, 1.58 mmol) in diethyl ether (5 ml) is added dropwise acetoxymethyldimethyl-3-fluorobenzylsilane (0.38 g, 1.58 mmol) in diethyl ether (2 ml). The mixture is then allowed to react for 0.5 hours at room temperature, treated with ethylacetate (2 ml), hydrolyzed with 1N HCl (6.5 ml), and poured into water (20 ml) and diethyl ether (10 ml). The organic layer is washed with water, brine, dried over MgSO4 and the solvent removed in vacuo. Chromatography (silica gel, hexane/ether-60/40 affords the title compound (0.23 g, 73% yield).

reactant | lithium aluminum hydride | 1.58 mmol, 0.06 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | acetoxymethyldimethyl-3-fluorobenzylsilane | 1.58 mmol, 0.38 g | C(C)(=O)OC[Si](CC1=CC(=CC=C1)F)(C)C | C12H17FO2Si
reactant | ethylacetate | 2 ml | C(C)OC(C)=O | C4H8O2
reactant | HCl | 1N, 6.5 ml | Cl | ClH
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | water | 20 ml | O | H2O
product | Dimethyl-3-fluorobenzylhydroxymethylsilane | 0.23 g, 73% yield | C[Si](CO)(CC1=CC(=CC=C1)F)C | C10H15FOSi
